US07884207B2
A mixture of 1-[(3-nitroquinolin-4-ylamino)methyl]cyclohexanol (10.0 g, 33.2 mmol), 5% platinum on carbon (1.0 g), and ethyl acetate (140 mL) was placed under hydrogen pressure (40 psi, 2.8×105 Pa) for 2.5 hours. The reaction mixture was filtered through a layer of CELITE filter aid and the filter cake was rinsed with ethyl acetate (100 mL). The filtrate was concentrated under reduced pressure to provide 1-[(3-aminoquinolin-4-ylamino)methyl]cyclohexanol as an orange gooey solid.

reactant | 1-[(3-nitroquinolin-4-ylamino)methyl]cyclohexanol | 33.2 mmol, 10.0 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)O | C16H19N3O3
catalyst | platinum on carbon | 1.0 g | [Pt] | Pt
solvent | ethyl acetate | 140 mL | C(C)(=O)OCC | C4H8O2
product | 1-[(3-aminoquinolin-4-ylamino)methyl]cyclohexanol | NC=1C=NC2=CC=CC=C2C1NCC1(CCCCC1)O | C16H21N3O
